US07642270B2
Bromine (0.68 g, 4.3 mmol) was added to a solution of 8-benzyl-2-methylsulfanyl-5-oxo-5,6,7,8-tetrahydro-pyrido[2,3-d]pyrimidine-6-carboxylic acid ethyl ester (1.53 g, 4.28 mmol) in DCM (20 mL). After 30 minutes, the reaction mixture was concentrated. The residue was redissolved in DCM (20 mL) and triethylamine (1.08 g, 10.7 mmol) was added. After 15 h, water (10 mL) was added, the organic layer separated, dried (MgSO4), and concentrated. Chromatography on silica (0-50% EtOAc/hexanes gradient) provided 0.39 g 8-benzyl-2-methylsulfanyl-5-oxo-5,8-dihydro-pyrido[2,3-d]pyrimidine-6-carboxylic acid ethyl ester. 1H NMR (400 MHz, CDCl3) δ (ppm): 9.26 (s, 1H), 8.51 (s, 1H), 7.21-7.29 (m, 5H), 5.45 (s, 2H), 4.27 (q, 2H, J=7.1 Hz), 2.48 (s, 3H), 1.30 (t, 3H, J=7.1 Hz).

reactant | Bromine | 4.3 mmol, 0.68 g | BrBr | Br2
reactant | 8-benzyl-2-methylsulfanyl-5-oxo-5,6,7,8-tetrahydro-pyrido[2,3-d]pyrimidine-6-carboxylic acid ethyl ester | 4.28 mmol, 1.53 g | C(C)OC(=O)C1C(C2=C(N=C(N=C2)SC)N(C1)CC1=CC=CC=C1)=O | C18H19N3O3S
reactant | triethylamine | 10.7 mmol, 1.08 g | C(C)N(CC)CC | C6H15N
reactant | water | 10 mL | O | H2O
solvent | DCM | 20 mL | C(Cl)Cl | CH2Cl2
product | 8-benzyl-2-methylsulfanyl-5-oxo-5,8-dihydro-pyrido[2,3-d]pyrimidine-6-carboxylic acid ethyl ester | 0.39 g | C(C)OC(=O)C=1C(C2=C(N=C(N=C2)SC)N(C1)CC1=CC=CC=C1)=O | C18H17N3O3S
